US07173129B2
4-{3E-[5-(1H-Indol-2-yl)-2,4-dimethoxyphenyl]acryloyl}-N-propionyl-benzenesulfonamide
To a solution of 4-{3E-[5-(1H-indol-2-yl)-2,4-dimethoxyphenyl]acryloyl}benzenesulfonamide (Ex-35E, 0.462 g, 1 mmol), DMAP (0.012 g, 0.1 mmol) and Et3N (0.1 g, 1.05 mmol) in THF (50 mL) was added propionic anhydride (0.26 g, 2 mmol). The reaction mixture was stirred at room temperature overnight. The clear solution was poured into 100 ml of H2O and extracted with CH2Cl2. The combined organic phase was washed with water, dried over MgSO4, and concentrated to dryness. Recrystallization from EtOAc/hexenes gave 0.42 g (81%) of the title compound as a red solid, mp 223–225° C. 1H-NMR (300 MHz, Acetone-d6) δ 10.54 (br, 1H), 8.35 (s, 1H), 8.27 (d, J=9 Hz, 2H), 8.13–8.20 (m, 3H), 7.89 (d, J=15 Hz, 1H), 7.52 (d, J=7 Hz, 1H), 7.39 (d, J=8 Hz, 1H), 6.97–7.05(m, 3H), 6.90 (s, 1H), 4.09 (s, 3H), 404 (s, 3H), 2.35 (q, J=8 Hz, 2H), 0.97(t, J=8 Hz, 3H). HRMS (EI) Calcd for C28H26N2O6S: 518.1512 ([M]+); Found: 518.1516.

reactant | 4-{3E-[5-(1H-indol-2-yl)-2,4-dimethoxyphenyl]acryloyl}benzenesulfonamide | 1 mmol, 0.462 g | N1C(=CC2=CC=CC=C12)C=1C(=CC(=C(C1)/C=C/C(=O)C1=CC=C(C=C1)S(=O)(=O)N)OC)OC | C25H22N2O5S
reactant | Et3N | 1.05 mmol, 0.1 g | CCN(CC)CC | C6H15N
reactant | propionic anhydride | 2 mmol, 0.26 g | C(CC)(=O)OC(CC)=O | C6H10O3
reactant | H2O | 100 ml | O | H2O
catalyst | DMAP | 0.1 mmol, 0.012 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 4-{3E-[5-(1H-Indol-2-yl)-2,4-dimethoxyphenyl]acryloyl}-N-propionyl-benzenesulfonamide | 0.42 g, 81% | N1C(=CC2=CC=CC=C12)C=1C(=CC(=C(C1)/C=C/C(=O)C1=CC=C(C=C1)S(=O)(=O)NC(CC)=O)OC)OC | C28H26N2O6S
